US08247429B2
methyl 5-bromo-6-chloro-1H-indazole-4-carboxylate
To a solution of methyl 3-amino-6-bromo-5-chloro-2-methylbenzoate (500 mg, 1.80 mmol) in acetic acid (9 mL) was added a solution of sodium nitrite (137 mg, 1.99 mmol) in water (0.9 mL) at room temperature, and the mixture was stirred for 24 hr. The organic solvent was evaporated under reduced pressure. The residual aqueous solution was diluted with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (NH, ethyl acetate) to give the title compound (398 mg, yield 76%).

reactant | methyl 3-amino-6-bromo-5-chloro-2-methylbenzoate | 1.80 mmol, 500 mg | NC=1C(=C(C(=O)OC)C(=C(C1)Cl)Br)C | C9H9BrClNO2
reactant | sodium nitrite | 1.99 mmol, 137 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
solvent | water | 0.9 mL | O | H2O
product | methyl 5-bromo-6-chloro-1H-indazole-4-carboxylate | 398 mg, yield 76% | BrC1=C(C=2C=NNC2C=C1Cl)C(=O)OC | C9H6BrClN2O2
